US07122692B2
5 g of nonamethyl-1-acetoxy-tetrasiloxane prepared as described in reference example of EP-0839869 and 2.31 g of commercial methacrylic acid (ATOFINA Norsocryl® MAA) are mixed at room temperature. Acetic acid is then distilled under reduced pressure (45° C./13 hPa) to afford nonamethyl-1-methacryloyloxy-tetrasiloxane.

reactant | nonamethyl-1-acetoxy-tetrasiloxane | 5 g | C[Si](O[Si](O[Si](O[Si](OC(C)=O)(C)C)(C)C)(C)C)(C)C | C11H30O5Si4
reactant | methacrylic acid | 2.31 g | C(C(=C)C)(=O)O | C4H6O2
product | nonamethyl-1-methacryloyloxy-tetrasiloxane | C[Si](O[Si](O[Si](O[Si](OC(C(=C)C)=O)(C)C)(C)C)(C)C)(C)C | C13H32O5Si4
